US07250535B2
In a 300 ml four-necked flask thoroughly purged with nitrogen, 40 ml of tetrahydrofuran, 18.1 g (0.1 mol) of di-tert-butylphosphinous chloride and 0.14 g (0.001 mol (corresponding to 1% by mol)) of copper(I) bromide were placed. To the contents of the flask, a Grignard reagent solution previously prepared from 13.5 g (0.12 mol) of chlorobenzene and 3.5 g (0.14 mol) of metallic magnesium in 100 ml of tetrahydrofuran was dropwise added over a period of 1 hour with maintaining the temperature at 25° C. to 30° C. After the dropwise addition was completed, stirring was conducted at a temperature of 35° C. to 40° C. for 3 hours. After the temperature of the reaction solution was returned to room temperature, disappearance of di-tert-butylphosphinous chloride was confirmed by gas chromatography. Thereafter, 40 ml of toluene and 30 ml of a 5% sulfuric acid aqueous solution were added to the reaction solution to perform liquid separation. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, followed by further distillation. Then, fractions given by distillation at 110° C. to 112° C. under reduced pressure of 5 Torr were collected. As a result, 19.9 g (purity: 99.0%) of the aimed di-tert-butylphenylphosphine was obtained as a viscous oily substance. The yield was 89.0%.

reactant | di-tert-butylphosphinous chloride | 0.1 mol, 18.1 g | C(C)(C)(C)P(C(C)(C)C)Cl | C8H18ClP
reactant | chlorobenzene | 0.12 mol, 13.5 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | magnesium | 0.14 mol, 3.5 g | [Mg] | Mg
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | copper(I) bromide | 0.001 mol, 0.14 g | [Cu]Br
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | di-tert-butylphenylphosphine | 19.9 g, yield was 89.0% | C(C)(C)(C)P(C1=CC=CC=C1)C(C)(C)C | C14H23P
